US07723360B2
2-Ethyl-5-fluoro-1-piperidin-4-yl-1H-benzimidazole
1-(1-Benzyl-piperidin-4-yl)-2-ethyl-5-fluoro-1H-benzimidazole (6.4 g) in methanol (100 ml) was hydrogenated with Pd/C (10%, 1.5 g) at room temperature for 8 h. The catalyst was removed and the filtrate was evaporated and dissolved in ethanol. The solution was acidified with conc. HCl(aq) and recrystallised by the addition of acetone. This yielded 5.3 g of the title compound as colourless crystals.

reactant | 1-(1-Benzyl-piperidin-4-yl)-2-ethyl-5-fluoro-1H-benzimidazole | 6.4 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(=NC2=C1C=CC(=C2)F)CC | C21H24FN3
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 2-Ethyl-5-fluoro-1-piperidin-4-yl-1H-benzimidazole | C(C)C1=NC2=C(N1C1CCNCC1)C=CC(=C2)F | C14H18FN3
